US07456200B2
3,3-Dimethyl-dihydro-furan-2,5-dione (6.4 g) was heated at 50° C. in ethanol (150 mL) overnight. The solvent was removed in vacuo and the residue triturated with hexane to yield 2,2-Dimethyl-succinic acid 4-ethyl ester (4.66 g) which was used without further purification. t-Butanol (7.5 mL) was added to a mixture of 2,2-Dimethyl-succinic acid 4-ethyl ester (2.74 g, 15.7 mmol) in dichloromethane (62 mL) containing magnesium sulfate (7.5 g) and conc. sulfuric acid (0.85 mL) and the mixture was stirred at room temperature overnight. Saturated sodium bicarbonate solution was added and the product was extracted into dichloromethane, washed with brine solution, dried and concentrated to yield the diested as a colorloess oil (1.89 g). The ethyl ester was hydrolyzed by trating the crude sample with potassium hydroxide (2.75 g) in a mixture of ethanol (50 mL) and water (25 mL) at room temperatire for 2 h. The reaction was acidified using 1N HCl (aq) and extracted into ether, dried and concentrated to yield 2,2-Dimethyl-succinic acid 1-tert-butyl ester (1.4 g). This acid was treated under the conditions of Example 320 (step 1) to yield 3-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2,2-dimethyl-propionic acid tert-butyl ester (1.9 g). This t-Bu ester was deprotected using formic acid (19 mL) at 50° C. for 20 min. The crude product was concentrated and triturated with a mixture of ether and hexane to yield 3-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2,2-dimethyl-propionic acid (1.12 g). To a solution of 3-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2,2-dimethyl-propionic acid (561 mg, 2 mmol) and triethylamine (1.1 mL, 8 mmol) in THF (9 ml), isobutyl chloroformate (0.31 mL, 2.4 mmol) was added dropwise at −78° C. After being stirred for 1 h, hydrazine hydrate (1 mL, 11 mmol) was added. The reaction mixture was stirred at room temperature for 1 h and concentrated. A small amount of ice was added to quence any excess reagent and precipitate the product, which was collected by filtration to give 482 mg of the title compound.

reactant | 3,3-Dimethyl-dihydro-furan-2,5-dione | 6.4 g | CC1(C(OC(C1)=O)=O)C | C6H8O3
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | 2,2-Dimethyl-succinic acid 4-ethyl ester | 4.66 g | C(C)OC(CC(C(=O)O)(C)C)=O | C8H14O4
